US06395733B1
Phenyl-pyrido[3,4-d]pyrimidin-yl-amine
Using a procedure analogous to that described in Example 5, this product was prepared in 22% yield from aniline (1.8 eq.) and 4-chloropyrido[3,4-d]pyrimidine (1 eq.). MP 161° C.; LC-MS: 223 (MH+).

reactant | aniline | 1.8 eq. | NC1=CC=CC=C1 | C6H7N
reactant | 4-chloropyrido[3,4-d]pyrimidine | 1 eq. | ClC=1C2=C(N=CN1)C=NC=C2 | C7H4ClN3
product | Phenyl-pyrido[3,4-d]pyrimidin-yl-amine | 22% yield | C1(=CC=CC=C1)NC=1N=CC2=C(N1)C=NC=C2 | C13H10N4
